US08791129B2
2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4-fluorobenzyl aminoacetate dihydrochloride (“A104”)
5 ml of 4N HCl in dioxane are added to 1 g of 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4-fluorobenzyl 2-tert-butoxycarbonylaminoacetate in 50 ml of dichloromethane with ice-cooling. The mixture is subsequently stirred at 25° C. for a further 1 h, the precipitate is filtered off and rinsed with 5 ml of dichloromethane.

reactant | HCl | 4N, 5 ml | Cl | ClH
reactant | 2-[2-amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4-fluorobenzyl 2-tert-butoxycarbonylaminoacetate | 1 g | C(C)(C)(C)OC(=O)NCC(=O)OCC1=C(C=C(C=C1)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | C31H30FN5O5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4-fluorobenzyl aminoacetate dihydrochloride | Cl.Cl.NCC(=O)OCC1=C(C=C(C=C1)F)C=1C=C2C(=NC(=NC2=CC1)N)C(=O)N1CC2=CC=CC=C2C1 | InChI=1S/C26H22FN5O3.2ClH/c27-19-7-5-18(14-35-23(33)11-28)20(10-19)15-6-8-22-21(9-15)24(31-26(29)30-22)25(34)32-12-16-3-1-2-4-17(16)13-32;;/h1-10H,11-14,28H2,(H2,29,30,31);2*1H
